US06218427B1
Example 21 2,4-Di(benzo[1,3]dioxol-5-yl)-6-isopropoxy-2H-chromen-3-carboxylic acid (I-1)
A mixture of compound (Ia-3) (57 mg, 0.117 mmol) and 1 M aqueous solution of sodium hydroxide (1.2 ml) in THF (2 ml) and methanol (2 ml) were refluxed for 1 h. The solvent was removed under reduced pressure, acidified with hydrochloric acid and extracted with ether three times. The ether layers were combined, washed with water and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was recrystallized from acetone-isopropylether to give compound (I-1) (37 mg, 66%) as yellow crystals.

reactant | Methyl 2,4-di(benzo[1,3]dioxol-5-yl)-6-isopropoxy-2H-chromen-3-carboxylate | O1COC2=C1C=CC(=C2)C2OC1=CC=C(C=C1C(=C2C(=O)OC)C2=CC1=C(OCO1)C=C2)OC(C)C | C28H24O8
reactant | sodium hydroxide | 1.2 ml | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
product | 2,4-Di(benzo[1,3]dioxol-5-yl)-6-isopropoxy-2H-chromen-3-carboxylic acid | O1COC2=C1C=CC(=C2)C2OC1=CC=C(C=C1C(=C2C(=O)O)C2=CC1=C(OCO1)C=C2)OC(C)C | C27H22O8
